US04550105
To a solution of 19 g of cis-1-(2,4-dimethoxybenzyl)-3-phthalimido-2-oxoazetidine-4-carboxylic acid n-butyl ester in 190 ml of methylene chloride is added 3.7 g of methyl hydrazine. The mixture is stirred overnight at room temperature. The reaction mixture is subjected to filtration, and the filtrate is concentrated under reduced pressure. To the residue is added ethyl acetate, and the insolubles are removed by filtration. The filtrate is subjected to extraction twice, with 100 ml each of 1N-HCl. The extracts are neutralized with sodium hydrogen carbonate, and extracted with ethyl acetate. The extract is washed with an aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, followed by evaporation of the solvent under reduced pressure to yield 12 g (87.5%) of cis-3-amino-1-(2,4-dimethoxybenzyl)-2-oxoazetidine-4-carboxylic acid n-butyl ester as oily product.

reactant | cis-1-(2,4-dimethoxybenzyl)-3-phthalimido-2-oxoazetidine-4-carboxylic acid n-butyl ester | 19 g | C(CCC)OC(=O)[C@@H]1[C@@H](C(N1CC1=C(C=C(C=C1)OC)OC)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C25H26N2O7
reactant | methyl hydrazine | 3.7 g | CNN | CH6N2
solvent | methylene chloride | 190 ml | C(Cl)Cl | CH2Cl2
product | cis-3-amino-1-(2,4-dimethoxybenzyl)-2-oxoazetidine-4-carboxylic acid n-butyl ester | 12 g, 87.5% | C(CCC)OC(=O)[C@@H]1[C@@H](C(N1CC1=C(C=C(C=C1)OC)OC)=O)N | C17H24N2O5
